US04780528
(A) α-L-Aspartyl-D-alanine propyl ester
This compound was prepared from 1.7 g D-alanine propyl ester and 3.6 g Z-Asp(OBzl) in a manner similar to Example 11 (A). Yield: 1.6 g.

reactant | D-alanine propyl ester | 1.7 g | C(CC)OC([C@H](N)C)=O | C6H13NO2
reactant | Z-Asp(OBzl) | 3.6 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H19NO6
product | α-L-Aspartyl-D-alanine propyl ester | C(CC)OC([C@H](NC([C@@H](N)CC(O)=O)=O)C)=O | C10H18N2O5
